US06468487B1
In an atmosphere of nitrogen, 10 mmole of 1,3-dicarboxyadamantane obtained by the method of Example 64 was dissolved in 10 ml of DMF. To the mixture, 30 mmole of thionyl chloride was added dropwise over 30 minutes and the mixture was heated to begin to reflux around the conclusion of addition. After refluxing for 2 hours, the mixture was cooled. To the mixture, 50 mmole of dimethylamine was added dropwise over 30 minutes while retaining the temperature of the mixture at 10° C. or less, and then stirred for more 2 hours. As a result, the conversion of 1,3-dicarboxyadamantane was 99%, and 1,3-bis(N,N-dimethylcarbamoyl)adamantane (yield 95%) was formed.

reactant | thionyl chloride | 30 mmole | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine | 50 mmole | CNC | C2H7N
reactant | 1,3-dicarboxyadamantane | C(=O)(O)C12CC3(CC(CC(C1)C3)C2)C(=O)O | C12H16O4
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1,3-bis(N,N-dimethylcarbamoyl)adamantane | yield 95% | CN(C(=O)C12CC3(CC(CC(C1)C3)C2)C(N(C)C)=O)C | C16H26N2O2
